US07625932B2
Additional Preparation of 4-(2-cyanophenyl)phenyl boronic acid
Add 2-(4-bromophenyl)benzenecarbonitrile (1.29 g, 0.005 moles, preparation 61), tetrahydrofuran (52 mL), and triisopropyl borate (2.82 grams, 0.015 moles) to a 100 mL 3-neck round-bottom flask equipped with a magnetic stirrer, internal temperature probe, dry ice-acetone bath, and addition funnel. Stir the mixture under nitrogen and cool the contents of the 100 mL 3-neck round-bottom flask to −73° C. Transfer a solution of n-butyl lithium 1.6 M in hexanes (8.7 mL, 0.0139 moles) via cannula to the addition funnel. Add n-butyl lithium (4.7 mL, 0.0075 moles) to the reaction mixture over 7 minutes while maintaining −65 to −73° C. Slowly warm the reaction mixture to −15° C. Cool the reaction mixture to −70° C. Add n-butyl lithium (3.0 mL, 0.0048 moles) to the reaction mixture dropwise. Slowly warm the reaction mixture to −15° C. Cool the reaction mixture to −60° C. Add n-butyl lithium (1.0 mL, 0.0016 moles) to the reaction mixture dropwise. Slowly warm the reaction mixture to −15° C. Cool the reaction mixture to −30° C. Add 1.0 N hydrochloric acid (20 mL, 0.02 moles). Remove the dry ice-acetone bath, and allow the reaction mixture to warm to 23° C. Transfer the reaction m mixture to a separatory funnel. Separate the phases and concentrate the organic phase to a solid under reduced pressure (15-25 mm). Add water (50 mL), 5N NaOH until pH 11.5 is observed, dichloromethane (40 mL), and tetrahydrofuran (20 mL). Transfer the reaction mixture to a separatory funnel and separate the phases. Acidify the aqueous phase and concentrate the suspension under reduced pressure (15-25 mm) to remove residual organic solvents. Collect the precipitate by filtration. Vacuum (15-25 mm) dry the filter cake at 45° C. to provide the title compound (0.30 g, 0.0013 moles) in 26.9% yield. 1H NMR (DMSO-d6, 500.0 MHz): δ 8.21 (s, 2H); 7.98 (dd, 1H, J=1.5, 8); 7.95 (d, 2H, J=8); 7.82 (dt, 1H, J=1.5, 7.5); 7.66 (d, 1H, J=7); 7.61 (dt, 1H, J=1, 8); 7.57 (d, 2H, J=8).

reactant | 2-(4-bromophenyl)benzenecarbonitrile | 0.005 moles, 1.29 g | BrC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C13H8BrN
reactant | triisopropyl borate | 0.015 moles, 2.82 grams | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | n-butyl lithium | 0.0075 moles, 4.7 mL | C(CCC)[Li]
reactant | n-butyl lithium | 0.0048 moles, 3.0 mL | C(CCC)[Li]
reactant | n-butyl lithium | 0.0016 moles, 1.0 mL | C(CCC)[Li]
reactant | hydrochloric acid | 0.02 moles, 1.0 N, 20 mL | Cl | ClH
solvent | tetrahydrofuran | 52 mL | O1CCCC1 | C4H8O
product | 4-(2-cyanophenyl)phenyl boronic acid | 0.0013 moles, 0.30 g, 26.9% yield | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)B(O)O | C13H10BNO2
